US04619834
2,2,5,5-Tetramethyl-1-cyclopentylmethanol is dissolved in benzene and stirred at 0° C. under argon. A solution of phosphorus tribromide in benzene is added and the mixture is stirred for 2 hours and then heated to 60° C. for 4 hours. The mixture is cooled, poured into ice and extracted with ether. The organic layer is washed with saturated NaHCO3, dried over MgSO4 and evaporated to yield 2,2,5,5-Tetramethyl-1-cyclopentylmethyl bromide.

reactant | 2,2,5,5-Tetramethyl-1-cyclopentylmethanol | CC1(C(C(CC1)(C)C)CO)C | C10H20O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,2,5,5-Tetramethyl-1-cyclopentylmethyl bromide | CC1(C(C(CC1)(C)C)CBr)C | C10H19Br
